US03932456
Preparation of bis(3-dimethylaminopropyl) 9-ethylcarbazole-3,6-dicarboxylate dihydrochloride
By the procedure of Example 2, one equivalent of 9-ethylcarbazole-3,6-dicarboxylic acid is allowed to react with two equivalents of 3-dimethylaminopropyl chloride in the presence of a catalytic amount of benzyltrimethylammonium chloride to give the product.

reactant | 9-ethylcarbazole-3,6-dicarboxylic acid | one equivalent | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(=O)O)C(=O)O | C16H13NO4
reactant | 3-dimethylaminopropyl chloride | two equivalents | CN(CCCCl)C | C5H12ClN
catalyst | benzyltrimethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | bis(3-dimethylaminopropyl) 9-ethylcarbazole-3,6-dicarboxylate dihydrochloride | Cl.Cl.C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(=O)OCCCN(C)C)C(=O)OCCCN(C)C | InChI=1S/C26H35N3O4.2ClH/c1-6-29-23-11-9-19(25(30)32-15-7-13-27(2)3)17-21(23)22-18-20(10-12-24(22)29)26(31)33-16-8-14-28(4)5;;/h9-12,17-18H,6-8,13-16H2,1-5H3;2*1H
